US06710205B2
1-nitro-2-iodo-4-chlorobenzene
To a suspension of 2-nitro-5-chloroaniline (5.00 g) in conc. hydrochloric acid (30 ml) under cooling with ice, was added a solution of sodium nitrite (2.10 g) in water (10 ml) dropwise and the mixture was stirred for 30 minutes. Under cooling with ice, to this solution was added a solution of potassium iodide (5.30 g) in water (20 ml) dropwise and the mixture was stirred for 1 hour at room temperature. The solid that appeared was collected by filtration and was dissolved in ethyl acetate and was dried and concentrated to give a crude product of the title compound. It was purified by recrystallization from ethyl acetate-hexane to give the title compound having the following physical data (5.14 g, yellow powder).

reactant | 2-nitro-5-chloroaniline | 5.00 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)Cl | C6H5ClN2O2
reactant | sodium nitrite | 2.10 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 5.30 g | [I-].[K+]
solvent | hydrochloric acid | 30 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 1-nitro-2-iodo-4-chlorobenzene | [N+](=O)([O-])C1=C(C=C(C=C1)Cl)I | C6H3ClINO2
